US08357703B2
6-((3-Butyl-5-methyl-isoxazol-4-yl)methoxy)-N-(1-methyl-1H-pyrazol-3-yl)-nicotinamide
As described for example 19b, 6-(3-butyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid (100 mg, 0.34 mmol) was converted, using 1-methyl-1H-pyrazol-3-ylamine instead of L-2,2,2-trifluoro-1-(methyl)ethylamine, to the title compound (70 mg, 55%) which was obtained as a yellow oil after purification by chromatography (silica, heptane:ethyl acetate 9:1 to 1:1). MS: m/e=370.2 [M+H]+.

reactant | 6-(3-butyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.34 mmol, 100 mg | C(CCC)C1=NOC(=C1COC1=NC=C(C(=O)O)C=C1)C | C15H18N2O4
reactant | 1-methyl-1H-pyrazol-3-ylamine | CN1N=C(C=C1)N | C4H7N3
product | 6-((3-Butyl-5-methyl-isoxazol-4-yl)methoxy)-N-(1-methyl-1H-pyrazol-3-yl)-nicotinamide | 70 mg, 55% | C(CCC)C1=NOC(=C1COC1=NC=C(C(=O)NC2=NN(C=C2)C)C=C1)C | C19H23N5O3
